US08859769B2
Acetic acid (125 ml) and fuming nitric acid (42.5 ml) were placed in a clean and dry reaction assembly, followed by the addition of 2-propylthio-pyrimidine-4,6-diol (50 g) over a period of 60 minutes at 30-35° C. and with stirring for 1 hour. After completion of the reaction, monitored by TLC, the reaction mass was slowly added to water (250 ml) with maintaining the temperature at below 25° C. The resulting slurry was stirred for 1 hour at 20-25° C. The product was isolated by filtration and washed successively with water (3×100 ml). The wet product was dried under reduced pressure at 40-45° C. to produce 48.28 g of 5-nitro-2-propylthiopyrimidine-4,6-diol as a off-white powder (Purity by HPLC: 99.02 area-%).

reactant | Acetic acid | 125 ml | C(C)(=O)O | C2H4O2
reactant | nitric acid | 42.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-propylthio-pyrimidine-4,6-diol | 50 g | C(CC)SC1=NC(=CC(=N1)O)O | C7H10N2O2S
solvent | water | 250 ml | O | H2O
product | 5-nitro-2-propylthiopyrimidine-4,6-diol | 48.28 g | [N+](=O)([O-])C=1C(=NC(=NC1O)SCCC)O | C7H9N3O4S
